US07064123B1
To a solution of 2,3,4,7-tetrahydro-azepine-1-carboxylic acid benzyl ester (4.5 g, 19.45 mmol) in dichloromethyl (50 mL) was added m-chloroperbenzoic acid (60 mmol). The mixture was stirred at ambient temperature for 16 hours. Saturated aqueous K2CO3 solution was added and the mixture was extracted with dichloromethyl. The combined organic layers were washed with saturated aqueous NaHCO3 and brine, dried with MgSO4 and evaporated under vacuum. The crude epoxide was dissolved in a 8:1 methanol/water mixture (100 mL). Ammonium chloride (3.2 g, 60 mmol) and sodium azide (3.9 g, 60 mmol) was added and the mixture was heated at 60° C. for 48 hours. Most of the solvent was removed under vacuum. The residue was extracted with ethyl acetate. The combined organic layers were washed with saturated aqueous NaHCO3 (200 mL) and brine (200 mL), dried with MgSO4 and evaporated under vacuum. Flash chromatography of the residue (hexane/ethyl acetate 3:1) gave 3.3 g of 4-azido-3-hydroxy-azepane-1-carboxylic acid benzyl ester.

reactant | 2,3,4,7-tetrahydro-azepine-1-carboxylic acid benzyl ester | 19.45 mmol, 4.5 g | C(C1=CC=CC=C1)OC(=O)N1CCCC=CC1 | C14H17NO2
reactant | m-chloroperbenzoic acid | 60 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | Ammonium chloride | 60 mmol, 3.2 g | [Cl-].[NH4+]
reactant | sodium azide | 60 mmol, 3.9 g | [N-]=[N+]=[N-].[Na+]
product | 4-azido-3-hydroxy-azepane-1-carboxylic acid benzyl ester | 3.3 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(CCC1)N=[N+]=[N-])O | C14H18N4O3
